US06121455
3-(2-Chloro-thiazol-5-yl-methyl)-5-methyl-4-nitroimino-perhydro-1,3,5-oxadiazine (compound 4-2)
190 g of 3-(2-benzylthio-thiazol-5-yl-methyl)-5-methyl-4-nitroimino-perhydro-1,3,5-oxadiazine are introduced over a period of 5 minutes, with stirring, into a mixture of 300 g of hydrochloric acid (32%) and 150 g of chlorobenzene. 124 g of chlorine are introduced at 20° C. over a period of 4 hours. After 2 hours, excess chlorine is removed by the introduction of nitrogen, and the phases are then separated. The aqueous phase is adjusted to pH 5 with sodium hydroxide solution (30%) and then filtered, and the filtration residue is washed with water and dried in vacuo at 50° C. The title product is obtained in a purity of 97%.

reactant | 3-(2-benzylthio-thiazol-5-yl-methyl)-5-methyl-4-nitroimino-perhydro-1,3,5-oxadiazine | 190 g | C(C1=CC=CC=C1)SC=1SC(=CN1)CN1COCN(C1=N[N+](=O)[O-])C | C15H17N5O3S2
reactant | hydrochloric acid | 300 g | Cl | ClH
reactant | chlorine | 124 g | ClCl | Cl2
solvent | chlorobenzene | 150 g | ClC1=CC=CC=C1 | C6H5Cl
product | 3-(2-Chloro-thiazol-5-yl-methyl)-5-methyl-4-nitroimino-perhydro-1,3,5-oxadiazine | ClC=1SC(=CN1)CN1COCN(C1=N[N+](=O)[O-])C | C8H10ClN5O3S
